US08202876B2
The mixture of (6-Methylsulfanyl-pyrimidin-4-yl)-hydrazine (1.0 g, 6.4 mmol), 3-Imino-butyronitrile (1.1 g, 12.8 mmol), and ethanol (30 mL) is heated to 85° C. for overnight. The reaction mixture is then cooled to room temperature, condensed, and treated with 75 mL ethyl acetate. The reaction mixture is partitioned between ethyl acetate and aqueous layer. The organic layer is dried over Na2SO4 and concentrated. The crude product is purified by ISCO chromatography eluting with ethyl acetate in hexanes from 10% to 80% to afford 5-Methyl-2-(6-methylsulfanyl-pyrimidin-4-yl)-2H-pyrazol-3-ylamine: 1H NMR 400 MHz (d6-DMSO) δ 8.72 (s, 1H), 7.53 (s, 1H), 6.90 (s, 1H), 5.26 (s, 1H), 2.57 (s, 3H), 2.08 (s, 3H); MS m/z 222.07 (M+1).

reactant | (6-Methylsulfanyl-pyrimidin-4-yl)-hydrazine | 6.4 mmol, 1.0 g | CSC1=CC(=NC=N1)NN | C5H8N4S
reactant | 3-Imino-butyronitrile | 12.8 mmol, 1.1 g | N=C(CC#N)C | C4H6N2
reactant | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | 5-Methyl-2-(6-methylsulfanyl-pyrimidin-4-yl)-2H-pyrazol-3-ylamine | CC=1C=C(N(N1)C1=NC=NC(=C1)SC)N | C9H11N5S
